US06353006B1
(R)-4-Isopropyl-2-(2-methyl-4-nitrophenylimino)-2,3,4,5-tetrahydro-1,3-thiazine Method C3a) was reacted with isobutyl bromide in a manner analogous to Method D2a to yield (4R)-3-isobutyl-4-isopropyl-2-(2-methyl-4-nitrophenylimino)tetrahydro-2H-1,3-thiazine (0.081 g, 32%). TLC (33% EtOAc/hex) Rf0.76.

reactant | (R)-4-Isopropyl-2-(2-methyl-4-nitrophenylimino)-2,3,4,5-tetrahydro-1,3-thiazine | C(C)(C)[C@@H]1NC(SCC1)=NC1=C(C=C(C=C1)[N+](=O)[O-])C | C14H19N3O2S
reactant | isobutyl bromide | C(C(C)C)Br | C4H9Br
product | (4R)-3-isobutyl-4-isopropyl-2-(2-methyl-4-nitrophenylimino)tetrahydro-2H-1,3-thiazine | 0.081 g, 32% | C(C(C)C)N1C(SCC[C@@H]1C(C)C)=NC1=C(C=C(C=C1)[N+](=O)[O-])C | C18H27N3O2S
